US07138533B2
1-(1-Acetyl-2,3-dihydro-1H-indol-5-yl)-6-bromo-1-hexanone
Using 1-acetylindoline and 6-bromohexanoyl chloride according to the same method as that of Reference Example 1, the title compound (1.27 g) was obtained as colorless crystals having a melting point of 110 to 111° C.

reactant | 1-acetylindoline | C(C)(=O)N1CCC2=CC=CC=C12 | C10H11NO
reactant | 6-bromohexanoyl chloride | BrCCCCCC(=O)Cl | C6H10BrClO
product | 1-(1-Acetyl-2,3-dihydro-1H-indol-5-yl)-6-bromo-1-hexanone | 1.27 g | C(C)(=O)N1CCC2=CC(=CC=C12)C(CCCCCBr)=O | C16H20BrNO2
